### PR TITLE
[Merged by Bors] - feat(Mathlib/Data/Nat/Factorial/NatCast): add `IsUnit` lemmas

### PR DESCRIPTION
**Pull request by mariainesdff**
Co-authored-by: AntoineChambert-Loir <antoine.chambert-loir@u-paris.fr>
Co'authored-by: Eric Wieser [eric-wieser](https://github.com/eric-wieser)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
Seems reasonable

maintainer merge

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 1]
```diff
@@ -0,0 +1,64 @@
...
+
+section Factorial
+
+open Nat
+
+section Semiring
+
+variable {A : Type*} [CommSemiring A]
+
+theorem natCast_factorial_isUnit_of_lt {n : ℕ} (hn_fac : IsUnit ((n - 1)! : A))
```
Comment (j-loreaux) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:30]: And similarly for all the others
```suggestion
theorem IsUnit.natCast_factorial_of_lt {n : ℕ} (hn_fac : IsUnit ((n - 1)! : A))
```

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 2]
```diff
@@ -0,0 +1,64 @@
...
+    {m : ℕ} (hmn : m < n) : IsUnit (m ! : A) :=
+  isUnit_of_dvd_unit (cast_dvd_cast (factorial_dvd_factorial (le_sub_one_of_lt hmn))) hn_fac
+
+theorem natCast_factorial_isUnit_of_le {n : ℕ} (hn_fac : IsUnit (n ! : A))
```
Comment (j-loreaux) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:34]:
```suggestion
theorem IsUnit.natCast_factorial_of_le {n : ℕ} (hn_fac : IsUnit (n ! : A))
```

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 3]
```diff
@@ -0,0 +1,64 @@
...
+    {m : ℕ} (hmn : m ≤ n) : IsUnit (m ! : A) :=
+  isUnit_of_dvd_unit (cast_dvd_cast (factorial_dvd_factorial hmn)) hn_fac
+
+theorem natCast_factorial_isUnit_of_ratAlgebra [Algebra ℚ A] (n : ℕ) : IsUnit (n ! : A) := by
```
Comment (j-loreaux) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:38]:
```suggestion
theorem IsUnit.natCast_factorial_of_ratAlgebra [Algebra ℚ A] (n : ℕ) : IsUnit (n ! : A) := by
```

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 4]
```diff
@@ -0,0 +1,64 @@
...
+  apply IsUnit.map
+  simp [isUnit_iff_ne_zero, n.factorial_ne_zero]
+
+end Semiring
+
+section CharP
+
+variable {A : Type*} [CommRing A] (p : ℕ) [Fact (Nat.Prime p)] [CharP A p]
+
+theorem natCast_factorial_isUnit_of_charP  {n : ℕ} (h : n < p) : IsUnit (n ! : A) := by
```
Comment (j-loreaux) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:49]:
```suggestion
theorem IsUnit.natCast_factorial_of_charP  {n : ℕ} (h : n < p) : IsUnit (n ! : A) := by
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Data/Nat/Factorial/NatCast.lean (hunk 1 above)
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:30]: This lemma feels a bit unnatural; can we drop it and just keep the `le` version?

File: Mathlib/Data/Nat/Factorial/NatCast.lean (hunk 3 above)
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:38]: Is an nnrat algebra enough?

File: Mathlib/Data/Nat/Factorial/NatCast.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/Data/Nat/Factorial/NatCast.lean:30]: The condition `IsUnit ((n - 1)! : A)` shows up naturally in the theory of divided powers (see #22322, where we invoke this lemma 8 times), so I would like to keep both versions.

Comment (mariainesdff) [reply Mathlib/Data/Nat/Factorial/NatCast.lean:30]: I put everything inside the `IsUnit` namespace.

File: Mathlib/Data/Nat/Factorial/NatCast.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Factorial/NatCast.lean]: `CharZero` isn't enough, but it would be sufficient that `nnratCast` is injective, which is a `Prop`.

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 5]
```diff
@@ -0,0 +1,63 @@
...
+
+variable {A : Type*} [CommSemiring A]
+
+theorem natCast_factorial_of_lt {n : ℕ} (hn_fac : IsUnit ((n - 1)! : A))
+    {m : ℕ} (hmn : m < n) : IsUnit (m ! : A) :=
+  isUnit_of_dvd_unit (cast_dvd_cast (factorial_dvd_factorial (le_sub_one_of_lt hmn))) hn_fac
+
+theorem natCast_factorial_of_le {n : ℕ} (hn_fac : IsUnit (n ! : A))
+    {m : ℕ} (hmn : m ≤ n) : IsUnit (m ! : A) :=
+  isUnit_of_dvd_unit (cast_dvd_cast (factorial_dvd_factorial hmn)) hn_fac
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:35]:
```suggestion
theorem natCast_factorial_of_le {n : ℕ} (hn_fac : IsUnit (n ! : A))
    {m : ℕ} (hmn : m ≤ n) : IsUnit (m ! : A) :=
  isUnit_of_dvd_unit (cast_dvd_cast (factorial_dvd_factorial hmn)) hn_fac

theorem natCast_factorial_of_lt {n : ℕ} (hn_fac : IsUnit ((n - 1)! : A))
    {m : ℕ} (hmn : m < n) : IsUnit (m ! : A) :=
  hn_fac.natCast_factorial_of_le <| le_sub_one_of_lt hmn
```

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 6]
```diff
@@ -0,0 +1,63 @@
...
+(semi)ring `A` to be a unit.
+
+-/
+
+namespace IsUnit
+
+open Nat
+section Semiring
+
+variable {A : Type*} [CommSemiring A]
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:27]: This is true without commutativity.  An ugly proof is
```lean
theorem natCast_factorial_of_le {n : ℕ} (hn_fac : IsUnit (n ! : A))
    {m : ℕ} (hmn : m ≤ n) : IsUnit (m ! : A) := by
  obtain ⟨k, rfl⟩ := exists_add_of_le hmn
  clear hmn
  induction k generalizing m with
  | zero => simpa using hn_fac
  | succ k ih =>
    rw [← add_assoc, add_right_comm] at hn_fac
    have := @ih (m + 1) hn_fac
    rw [Nat.factorial_succ, Nat.cast_mul, Nat.cast_commute _ _ |>.isUnit_mul_iff] at this
    exact this.2
```
though there might be a slicker trick by going through `Set.center`.

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 7]
```diff
@@ -0,0 +1,71 @@
...
+    exact this.2
+
+theorem natCast_factorial_of_lt {n : ℕ} (hn_fac : IsUnit ((n - 1)! : A))
+    {m : ℕ} (hmn : m < n) : IsUnit (m ! : A) :=
+  hn_fac.natCast_factorial_of_le <| le_sub_one_of_lt hmn
+
+theorem natCast_factorial_of_ratAlgebra [Algebra ℚ A] (n : ℕ) : IsUnit (n ! : A) := by
+  rw [← map_natCast (algebraMap ℚ A)]
+  apply IsUnit.map
+  simp [isUnit_iff_ne_zero, n.factorial_ne_zero]
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:48]: Here's a version that works for both `Rat` and `NNRat`:
```lean
/-- If `A` is an algebra over a characteristic-zero (semi)field, then `n!` is a unit. -/
theorem natCast_factorial_of_algebra (K : Type*) [Semifield K] [CharZero K] [Algebra K A] (n : ℕ) : IsUnit (n ! : A) := by
  rw [← map_natCast (algebraMap K A)]
  apply IsUnit.map
  simp [isUnit_iff_ne_zero, n.factorial_ne_zero]
```

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 8]
```diff
@@ -0,0 +1,71 @@
...
+  | zero => simp
+  | succ n ih =>
+    simp only [factorial_succ, cast_mul, IsUnit.mul_iff]
+    refine ⟨?_, ih (lt_trans (lt_add_one n) h)⟩
+    have h1 := Int.cast_one (R := A)
+    rw [← cast_one, ← coprime_of_lt_prime (zero_lt_succ n) h (Fact.elim inferInstance),
+      gcd_eq_gcd_ab, Int.cast_add] at h1
+    simp only [succ_eq_add_one, Int.cast_mul, Int.cast_natCast, CharP.cast_eq_zero, zero_mul,
+      zero_add] at h1
+    exact isUnit_of_mul_eq_one _ _ h1
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:67]: This also generalizes to `Ring`
```suggestion
theorem natCast_factorial_of_charP  {n : ℕ} (h : n < p) : IsUnit (n ! : A) := by
  induction n with
  | zero => simp
  | succ n ih =>
    rw [factorial_succ, cast_mul, Nat.cast_commute _ _ |>.isUnit_mul_iff]
    refine ⟨?_, ih (lt_trans (lt_add_one n) h)⟩
    have h1 := Int.cast_one (R := A)
    rw [← cast_one, ← coprime_of_lt_prime (zero_lt_succ n) h (Fact.elim inferInstance),
      gcd_eq_gcd_ab, Int.cast_add] at h1
    simp only [succ_eq_add_one, Int.cast_mul, Int.cast_natCast, CharP.cast_eq_zero, zero_mul,
      zero_add] at h1
    have h2 :=  Nat.cast_commute _ _ |>.eq.symm.trans h1
    exact ⟨⟨_, _, h1, h2⟩, rfl⟩
```
though can perhaps be golfed.

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 9]
```diff
@@ -0,0 +1,71 @@
...
+import Mathlib.Algebra.CharP.Defs
+import Mathlib.Algebra.Order.Field.Rat
+import Mathlib.Data.Int.GCD
+import Mathlib.Data.Nat.Factorial.Basic
+import Mathlib.Data.Nat.Prime.Basic
+
+/-!
+# Invertibility of factorials
+
+This file contains lemmas providing sufficient conditions for the cast of `n!` to a commutative
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:17]:
```suggestion
This file contains lemmas providing sufficient conditions for the cast of `n!` to a
```

File: Mathlib/Data/Nat/Factorial/NatCast.lean (hunk 7 above)
Comment (mariainesdff) [reply Mathlib/Data/Nat/Factorial/NatCast.lean:48]: But this requires `Semifield` (which for instance is not true for `Polynomial Rat`).

Comment (eric-wieser) [reply Mathlib/Data/Nat/Factorial/NatCast.lean:48]: Sure it is, set `K := Rat`. My proposal is to replace callers of `natCast_factorial_of_ratAlgebra` with `natCast_factorial_of_algebra Rat`.

Comment (mariainesdff) [reply Mathlib/Data/Nat/Factorial/NatCast.lean:48]: Ah, of course you are right, sorry (I had not read carefully).

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 10]
```diff
@@ -0,0 +1,75 @@
...
+    simpa using this.map (algebraMap K A)
+  simp [isUnit_iff_ne_zero, n.factorial_ne_zero]
+
+end Semiring
+
+section CharP
+
+variable {A : Type*} [Ring A] (p : ℕ) [Fact (Nat.Prime p)] [CharP A p]
+
+theorem natCast_factorial_of_charP  {n : ℕ} (h : n < p) : IsUnit (n ! : A) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:59]:
```suggestion
theorem natCast_factorial_of_charP {n : ℕ} (h : n < p) : IsUnit (n ! : A) := by
```

Also, is this true as an `Iff`?

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 11]
```diff
@@ -0,0 +1,75 @@
...
+  | zero => simp
+  | succ n ih =>
+    rw [factorial_succ, cast_mul, Nat.cast_commute _ _ |>.isUnit_mul_iff]
+    refine ⟨?_, ih (lt_trans (lt_add_one n) h)⟩
+    have h1 := Int.cast_one (R := A)
+    rw [← cast_one, ← coprime_of_lt_prime (zero_lt_succ n) h (Fact.elim inferInstance),
+      gcd_eq_gcd_ab, Int.cast_add] at h1
+    simp only [succ_eq_add_one, Int.cast_mul, Int.cast_natCast, CharP.cast_eq_zero, zero_mul,
+      zero_add] at h1
+    have h2 :=  Nat.cast_commute _ _ |>.eq.symm.trans h1
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:70]:
```suggestion
    have h2 := Nat.cast_commute _ _ |>.eq.symm.trans h1
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Data/Nat/Factorial/NatCast.lean [hunk 12]
```diff
@@ -0,0 +1,94 @@
...
+  · intro h
+    rw [ ← ZMod.cast_natCast' (n := p)]
+    refine ⟨⟨ZMod.cast (n : ZMod p), ZMod.cast (n⁻¹ : ZMod p), ?_, ?_⟩, rfl⟩
+    all_goals rw [← ZMod.cast_mul (m := p) dvd_rfl]
+    · rw [mul_inv_cancel₀ (G₀ := ZMod p), ZMod.cast_one']
+      rw [ne_eq, ZMod.natCast_zmod_eq_zero_iff_dvd]
+      assumption
+    · rw [inv_mul_cancel₀ (G₀ := ZMod p), ZMod.cast_one']
+      rw [ne_eq, ZMod.natCast_zmod_eq_zero_iff_dvd]
+      assumption
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorial/NatCast.lean:76]: This is now in #22669
